US06492368B1
46 ml of thionyl chloride and 1 ml of DMF are added to a solution of 10.0 g of 4-(5-methyl-1,2,4-oxadiazol-3-yl)benzoic acid in 150 ml of toluene. The solution is heated under reflux for 5 hours. The solvent is removed, giving 4-(5-methyl-1,2,4-oxadiazol-3-yl)-benzoyl chloride, EI 222. Subsequent reaction with 9.3 g of 1-tert-butoxycarbonylpiperazine in 150 ml of dichloromethane and 48 ml of triethylamine gives, after customary work-up, tert-butyl 4-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)benzoyl]piperazine-1-carboxylate, FAB 373.

reactant | thionyl chloride | 46 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
reactant | 4-(5-methyl-1,2,4-oxadiazol-3-yl)benzoic acid | 10.0 g | CC1=NC(=NO1)C1=CC=C(C(=O)O)C=C1 | C10H8N2O3
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(5-methyl-1,2,4-oxadiazol-3-yl)-benzoyl chloride | CC1=NC(=NO1)C1=CC=C(C(=O)Cl)C=C1 | C10H7ClN2O2
